US07888349B2
Under a nitrogen atmosphere, a suspension of 2-methyl-N1-(3-nitroquinolin-4-yl)propane-1,2-diamine (93 g, 358 mmol) and triethylamine (100 mL, 717 mmol) in anhydrous dichloromethane (1 L) was cooled to 0° C. Methanesulfonyl chloride (27.7 mL, 358 mmol) was added over a period of 20 minutes. The reaction was allowed to warm to ambient temperature and stirred overnight. Additional methanesulfonyl chloride (9.2 mL) was added over a period of five minutes, and the reaction was stirred for an additional day. Additional methanesulfonyl chloride (2.0 mL) was added, and the reaction was stirred for two hours. The solvent was removed under reduced pressure, and the residue was triturated with water (800 mL) at 50° C., isolated by filtration, and washed with water to provide 116 g of N-{1,1-dimethyl-2-[(3-nitroquinolin-4-yl)amino]ethyl}methanesulfonamide as a yellow powder.

reactant | 2-methyl-N1-(3-nitroquinolin-4-yl)propane-1,2-diamine | 358 mmol, 93 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)N | C13H16N4O2
reactant | triethylamine | 717 mmol, 100 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 358 mmol, 27.7 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 9.2 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulfonyl chloride | 2.0 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 1 L | ClCCl | CH2Cl2
product | N-{1,1-dimethyl-2-[(3-nitroquinolin-4-yl)amino]ethyl}methanesulfonamide | 116 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)NS(=O)(=O)C | C14H18N4O4S
